US06121265
a. 5-Amino-4-fluoro-2-(1-imidazolyl)nitrobenzene
12 g (0.068 mol) of 5-amino-2,4-difluoronitrobenzene were slowly added at 0° C. to a solution of 4.7 g of imidazole (0.069 mol) and 2.1 g of sodium hydride (80% in oil; 0.07 mol) and then stirred at this temperature for several hours. The mixture was then diluted with water and extracted several times with methylene chloride. The residue after drying and evaporation was recrystallized from isopropanol.

reactant | 5-amino-2,4-difluoronitrobenzene | 0.068 mol, 12 g | NC=1C(=CC(=C(C1)[N+](=O)[O-])F)F | C6H4F2N2O2
reactant | imidazole | 0.069 mol, 4.7 g | N1C=NC=C1 | C3H4N2
reactant | sodium hydride | 0.07 mol, 2.1 g | [H-].[Na+]
solvent | water | O | H2O
product | 5-Amino-4-fluoro-2-(1-imidazolyl)nitrobenzene | NC=1C(=CC(=C(C1)[N+](=O)[O-])N1C=NC=C1)F | C9H7FN4O2
